US07297713B2
N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-2-methylpropanamide
The title compound was prepared according to the general procedure for acylation of 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile using isobutyryl chloride (58 μL, 0.55 mmol) to provide N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-2-methylpropanamide (0.026 g).

reactant | 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | isobutyryl chloride | 0.55 mmol, 58 μL | C(C(C)C)(=O)Cl | C4H7ClO
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]-2-methylpropanamide | 0.026 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)NC(C(C)C)=O | C16H17N3O
